.subckt bgr_final_0 porst vbg va vb vccd1 vssa1
*.PININFO porst:I vbg:O va:O vb:O vccd1:I vssa1:I
XM5 vgate va vq vssa1 sky130_fd_pr__nfet_01v8_lvt L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=9 m=9 
XM6 vq Vx vssa1 vssa1 sky130_fd_pr__nfet_01v8_lvt L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM9 vg vb vq vssa1 sky130_fd_pr__nfet_01v8_lvt L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=9 m=9 
XM7 Vx Vx vssa1 vssa1 sky130_fd_pr__nfet_01v8_lvt L=2 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM13 Vx vgate vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt L=2 W=6.45 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=12 m=12 
XM1 va vgate vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt L=2 W=6.45 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=60 m=60 
XM2 vb vgate vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt L=2 W=6.45 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=60 m=60 
XM3 vbg vgate vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt L=2 W=6.45 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=60 m=60 
XM4 vg vg vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt L=2 W=6.45 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=6 m=6 
XM8 vgate vg vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt L=2 W=6.45 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6 
XM10 vgate porst vssa1 vssa1 sky130_fd_pr__nfet_01v8_lvt L='2' W='4' nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=9 m=9 
XM17 va vccd1 vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt L=2 W=6.45 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=12 m=12 
XC1 vgate vccd1 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=100 m=100
XC2 vssa1 va sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=100 m=100
x30 net1 vb vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x24 vbneg net1 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x5 net5 va vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x1 net6 net5 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x2 net7 net6 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x3 net8 net7 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x4 net9 net8 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x16 net10 net9 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x6 net11 net10 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x13 net4 net11 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x14 net3 net4 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x15 net2 net3 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x17 vssa1 net2 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_2
x7 net29 net15 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x8 vb net29 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x9 net16 net15 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x10 net17 net16 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x11 net18 net17 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x12 net19 net18 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x18 net20 net19 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x19 net14 net20 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x20 net13 net14 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x21 net12 net13 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x22 vssa1 net12 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_2
x32 net23 vbg vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x33 net24 net23 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x34 net25 net24 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x35 net26 net25 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x36 net27 net26 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x37 net28 net27 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x38 net21 net28 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x39 net22 net21 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x40 vssa1 net22 vccd1 vssa1 vssa1 sky130_asc_res_xhigh_po_2p85_1
x23 vccd1 vssa1 vssa1 vssa1 vbneg vssa1 sky130_asc_pnp_05v5_W3p40L3p40_8
x26 vccd1 vssa1 vssa1 vssa1 vbneg vssa1 sky130_asc_pnp_05v5_W3p40L3p40_8
x27 vccd1 vssa1 vssa1 vssa1 vbneg vssa1 sky130_asc_pnp_05v5_W3p40L3p40_8
x28 vccd1 vssa1 vssa1 vssa1 vbneg vssa1 sky130_asc_pnp_05v5_W3p40L3p40_8
x29 vccd1 vssa1 vssa1 vssa1 vbneg vssa1 sky130_asc_pnp_05v5_W3p40L3p40_7
x25 vccd1 vssa1 vssa1 vssa1 va vssa1 sky130_asc_pnp_05v5_W3p40L3p40_1
.ends

* expanding   symbol:  multiple_bgr/sky130_asc_res_xhigh_po_2p85_1.sym # of pins=5
* sym_path:
*+ /scratch/users/lyt1314/caravel_user_project_analog_BGR/xschem/multiple_bgr/sky130_asc_res_xhigh_po_2p85_1.sym
* sch_path:
*+ /scratch/users/lyt1314/caravel_user_project_analog_BGR/xschem/multiple_bgr/sky130_asc_res_xhigh_po_2p85_1.sch
.subckt sky130_asc_res_xhigh_po_2p85_1  Rout Rin VPWR VGND VSUBS
*.PININFO Rin:B Rout:B VPWR:B VGND:B VSUBS:B
XR1 Rin net1 VGND sky130_fd_pr__res_xhigh_po W=2.85 L=7.88 mult=1 m=1
XR2 Rout net1 VGND sky130_fd_pr__res_xhigh_po W=2.85 L=7.88 mult=1 m=1
.ends


* expanding   symbol:  multiple_bgr/sky130_asc_res_xhigh_po_2p85_2.sym # of pins=5
* sym_path:
*+ /scratch/users/lyt1314/caravel_user_project_analog_BGR/xschem/multiple_bgr/sky130_asc_res_xhigh_po_2p85_2.sym
* sch_path:
*+ /scratch/users/lyt1314/caravel_user_project_analog_BGR/xschem/multiple_bgr/sky130_asc_res_xhigh_po_2p85_2.sch
.subckt sky130_asc_res_xhigh_po_2p85_2  Rout Rin VPWR VSUB VGND
*.PININFO Rin:B Rout:B VPWR:B VSUB:B VGND:B
XR1 net1 Rin VGND sky130_fd_pr__res_xhigh_po W=2.85 L=10.75 mult=1 m=1
XR2 net1 Rout VGND sky130_fd_pr__res_xhigh_po W=2.85 L=10.75 mult=1 m=1
.ends


* expanding   symbol:  multiple_bgr/sky130_asc_pnp_05v5_W3p40L3p40_8.sym # of pins=6
* sym_path:
*+ /scratch/users/lyt1314/caravel_user_project_analog_BGR/xschem/multiple_bgr/sky130_asc_pnp_05v5_W3p40L3p40_8.sym
* sch_path:
*+ /scratch/users/lyt1314/caravel_user_project_analog_BGR/xschem/multiple_bgr/sky130_asc_pnp_05v5_W3p40L3p40_8.sch
.subckt sky130_asc_pnp_05v5_W3p40L3p40_8  VPWR VGND VSUB Base Emitter Collector
*.PININFO Base:B Emitter:B Collector:B VPWR:B VGND:B VSUB:B
XQ1 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ2 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ3 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ4 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ5 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ6 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ7 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ8 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
.ends


* expanding   symbol:  multiple_bgr/sky130_asc_pnp_05v5_W3p40L3p40_7.sym # of pins=6
* sym_path:
*+ /scratch/users/lyt1314/caravel_user_project_analog_BGR/xschem/multiple_bgr/sky130_asc_pnp_05v5_W3p40L3p40_7.sym
* sch_path:
*+ /scratch/users/lyt1314/caravel_user_project_analog_BGR/xschem/multiple_bgr/sky130_asc_pnp_05v5_W3p40L3p40_7.sch
.subckt sky130_asc_pnp_05v5_W3p40L3p40_7  VPWR VGND VSUB Base Emitter Collector
*.PININFO Base:B Emitter:B Collector:B VPWR:B VGND:B VSUB:B
XQ1 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ2 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ3 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ4 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ5 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ6 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
XQ8 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
.ends


* expanding   symbol:  multiple_bgr/sky130_asc_pnp_05v5_W3p40L3p40_1.sym # of pins=6
* sym_path:
*+ /scratch/users/lyt1314/caravel_user_project_analog_BGR/xschem/multiple_bgr/sky130_asc_pnp_05v5_W3p40L3p40_1.sym
* sch_path:
*+ /scratch/users/lyt1314/caravel_user_project_analog_BGR/xschem/multiple_bgr/sky130_asc_pnp_05v5_W3p40L3p40_1.sch
.subckt sky130_asc_pnp_05v5_W3p40L3p40_1  VPWR VGND VSUBS Base Emitter Collector
*.PININFO Base:B Emitter:B Collector:B VPWR:B VGND:B VSUBS:B
XQ1 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
.ends

** flattened .save nodes
.end
